US07579368B2
Iron (16.19 g, 290 mmol) was added to a slurry mixture of 2-ethoxy-4-nitrobenzoic acid (24.00 g, 114 mmol) in ethanol (200 mL) and saturated aqueous solution of ammonium chloride (120 mL). The mixture was stirred at 80° C. for 2 h. The reaction mixture was cooled to room temperature and filtered through Celite. It was rinsed with methylene chloride and the combined filtrate diluted with water and extracted with methylene chloride and dried over anhydrous sodium sulfate. Evaporation of the solvent and chromatography of the brown residue over silica gel using 1-5% methanol in methylene chloride produced 4-amino-2-ethoxybenzoic acid as a yellow solid (14.94 g, 73%).

reactant | 2-ethoxy-4-nitrobenzoic acid | 114 mmol, 24.00 g | C(C)OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C9H9NO5
reactant | ammonium chloride | 120 mL | [Cl-].[NH4+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Iron | 290 mmol, 16.19 g | [Fe] | Fe
product | 4-amino-2-ethoxybenzoic acid | 14.94 g, 73% | NC1=CC(=C(C(=O)O)C=C1)OCC | C9H11NO3
